US07030121B2
To a suspension of 3-(2(1H)-pyridinon-5-yl)-2-phenylpyrazolo[1,5-a]pyrazine (120 mg) in DMF (3 mL) was added NaH (60% oil suspension, 25 mg) at room temperature and the mixture was stirred at the same temperature for 10 min. To the mixture was added iodomethane (0.039 mL). After stirring at room temperature for 15 h, the reaction mixture was poured into 10% NaCl solution, extracted with EtOAc, washed with 10% NaCl solution and brine, dried over sodium sulfate, evaporated in vacuo. The residue was purified by silica gel column chromatography (EtOAc to CH2Cl2-MeOH 10:1) to give 3-(1-methyl-2(1H)-pyridinon-5-yl)-2-phenylpyrazolo[1,5-a]pyrazine (114.5 mg) as a solid.

reactant | 3-(2(1H)-pyridinon-5-yl)-2-phenylpyrazolo[1,5-a]pyrazine | 120 mg | N1C(C=CC(=C1)C=1C(=NN2C1C=NC=C2)C2=CC=CC=C2)=O | C17H12N4O
reactant | NaH | 25 mg | [H-].[Na+]
reactant | iodomethane | 0.039 mL | IC | CH3I
reactant | NaCl | [Na+].[Cl-]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 3-(1-methyl-2(1H)-pyridinon-5-yl)-2-phenylpyrazolo[1,5-a]pyrazine | 114.5 mg | CN1C(C=CC(=C1)C=1C(=NN2C1C=NC=C2)C2=CC=CC=C2)=O | C18H14N4O
